US07259183B2
Preparation of 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [4-(1-cyano-cyclopropyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide
69 mg (0.7 mmol) of N-methyl morpholine and then 129 mg (0.34 mmol) of TBTU were added to 48 mg (0.23 mol) of 5-chloro-6-fluoro-1H-indol-7-carboxylic acid and 78 mg (0.27 mmol) of 1-(4-{[2-(3-trifluoromethyl-phenyl)-ethylamino]-methyl}-phenyl)-cyclo-propanecarbonitrile dissolved in 2.3 ml DMF at rt under nitrogen. The reaction mixture was stirred at rt over night. Water was added and the reaction mixture was extracted twice with EtOAc. The combined organic layers were washed once with 1N aqueous HCl solution, once with saturated aqueous NaHCO3 solution and once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (20 g silica gel; methylene chloride/methanol 19:1) to yield 107 mg (87%) product as a yellow viscous oil. MS (ISP) 540.3 (100), 541.3 (30), 542.3 (32) (M+H)+, 562.3 (39), 563.4 (11), 564.4 (12) (M+Na)+.

reactant | N-methyl morpholine | 0.7 mmol, 69 mg | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.34 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-chloro-6-fluoro-1H-indol-7-carboxylic acid | 0.23 mol, 48 mg | ClC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5ClFNO2
reactant | 1-(4-{[2-(3-trifluoromethyl-phenyl)-ethylamino]-methyl}-phenyl)-cyclo-propanecarbonitrile | 0.27 mmol, 78 mg | FC(C=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C1(CC1)C#N)(F)F | C20H19F3N2
solvent | DMF | 2.3 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [4-(1-cyano-cyclopropyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide | 107 mg, 87% | C(#N)C1(CC1)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)Cl)F)CCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C29H22ClF4N3O
